US06028195
1-[(2-Methylquinolin-3-yl)aminocarbonyl]-4-(2-methoxy-5-methylphenyl)piperazine
Phenyl N-(2-methylquinolin-3-yl)carbamate and 1-(2-methoxy-5-methylphenyl)piperazine were reacted by the same way with the example 114 to obtain the titled compound.

reactant | Phenyl N-(2-methylquinolin-3-yl)carbamate | CC1=NC2=CC=CC=C2C=C1NC(OC1=CC=CC=C1)=O | C17H14N2O2
reactant | 1-(2-methoxy-5-methylphenyl)piperazine | COC1=C(C=C(C=C1)C)N1CCNCC1 | C12H18N2O
product | 1-[(2-Methylquinolin-3-yl)aminocarbonyl]-4-(2-methoxy-5-methylphenyl)piperazine | yield: 80% | CC1=NC2=CC=CC=C2C=C1NC(=O)N1CCN(CC1)C1=C(C=CC(=C1)C)OC | C23H26N4O2
